US08017626B2
Method 26: Methyl-2-(4-hydroxy-1-methyl-2-oxo-7-(2-(trimethylsilyl)ethynyl)-1,2-dihydroquinoline-3-carboxamido)acetate
In a sealed tube was combined methyl 2-(7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (0.75 g, 2.0 mmol), Dichlorobis(triphenylphosphine) palladium(II) (0.14 g, 0.20 mmol), copper(I) iodide (0.077 g, 0.41 mmol), ethynyltrimethylsilane (1.4 ml, 10 mmol), and N-ethyl-N-isopropylpropan-2-amine (2.8 ml, 16 mmol) in tetrahydrofuran (20.0 ml, 2.0 mmol). The tube was flushed with Ar, sealed, and placed in an oil bath at 100° C. for 5 hours. The dark mixture was cooled to rt, filtered and washed with ethyl acetate (2×30 mL). The crude mixture was concentrated, adsorbed onto silica and purified by flash chromatography (15% to 40% EtOAc:Hex gradient) to afford the product as a solid (0.59 g, 75% yield).

reactant | methyl 2-(7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 2.0 mmol, 0.75 g | BrC1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)OC)O | C14H13BrN2O5
reactant | ethynyltrimethylsilane | 10 mmol, 1.4 ml | C(#C)[Si](C)(C)C | C5H10Si
reactant | N-ethyl-N-isopropylpropan-2-amine | 16 mmol, 2.8 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tetrahydrofuran | 2.0 mmol, 20.0 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.41 mmol, 0.077 g | [Cu]I
product | Methyl-2-(4-hydroxy-1-methyl-2-oxo-7-(2-(trimethylsilyl)ethynyl)-1,2-dihydroquinoline-3-carboxamido)acetate | 0.59 g, 75% yield | COC(CNC(=O)C=1C(N(C2=CC(=CC=C2C1O)C#C[Si](C)(C)C)C)=O)=O | C19H22N2O5Si
